US07226920B2
To a solution of 8 g of 4-{1-[2-(4-Acetyl-3,5-dimethyl-piperazin-1-yl)-pyridin-4-yl]-1H-[1,2,4]triazol-3-ylamino}-benzoic acid (18.3 mMol, 1.00 equiv) in 150 mL of NMP was added 9 mL of Hunig's base followed by 6 g of DPPA (21.8 mMol, 1.19 equiv). The reaction was stirred for 30 min at 25° C. To the reaction mixture was then added 200 mL of TFA and the resulting solution was warmed to 90° C. for 12 hr. After cooling to 25° C., the reaction was quenched with 200 mL of concentrated ammonium hydroxide and concentrated. The resulting oil was triturated with CH2Cl2 and the solid was isolated by filtration. The solid was then dissolved in MeOH (100 mL) and concentrated to 50 mL. The resulting precipitate was isolated and treated with 50 mL of 1 N HCl and concentrated via rotary evaporation. The oil was triturated with ethanol and the resulting solid was removed by filtration. The ethanol solution was concentrated to give 2.5 g of 1-(4-{4-[3-(4-Amino-phenylamino)-[1,2,4]triazol-1-yl]-pyridin-2-yl}-2,6-dimethyl-piperazin-1-yl)-ethanone (6.15 mMol, 33.6% yield) as the HCl salt. 1H NMR (500 MHz, CDCl3) ∂ 8.39 (1H, s), 8.10 (1H, d), 7.22 (2H, d), 7.15 (2H, d), 6.95 (1H, s), 6.92 (2H, m), 6.75 (1H, m), 6.65 (2H, d), 4.15 (2H, m), 3.08 (2H, m), 2.99 (2H, m), 2.10 (3H, s), 1.30 (6H, m) ppm. LC/MS: 0.54 min/407.3 (M+1)

reactant | 4-{1-[2-(4-Acetyl-3,5-dimethyl-piperazin-1-yl)-pyridin-4-yl]-1H-[1,2,4]triazol-3-ylamino}-benzoic acid | 18.3 mMol, 8 g, 1.00 equiv | C(C)(=O)N1C(CN(CC1C)C1=NC=CC(=C1)N1N=C(N=C1)NC1=CC=C(C(=O)O)C=C1)C | C22H25N7O3
reactant | Hunig's base | 9 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | DPPA | 21.8 mMol, 6 g, 1.19 equiv | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | TFA | 200 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | HCl | 1 N, 50 mL | Cl | ClH
solvent | NMP | 150 mL | CN1CCCC1=O | C5H9NO
solvent | MeOH | 100 mL | CO | CH4O
product | 1-(4-{4-[3-(4-Amino-phenylamino)-[1,2,4]triazol-1-yl]-pyridin-2-yl}-2,6-dimethyl-piperazin-1-yl)-ethanone | 6.15 mMol, 2.5 g, 33.6% yield | NC1=CC=C(C=C1)NC1=NN(C=N1)C1=CC(=NC=C1)N1CC(N(C(C1)C)C(C)=O)C | C21H26N8O
